US09193723B2
5-bromo-N-(imidazo[1,2-a]pyridin-7-ylmethyl)thiophene-2-carboxamide
A solution of 5-bromothiophene-2-carboxylic acid (1.279 g, 6.18 mmol), imidazo[1,2-a]pyridin-7-ylmethanamine (1 g, 6.79 mmol), 1-hydroxybenzotriazole hydrate (1.041 g, 6.79 mmol) and N-methylmorpholine (1.698 ml, 15.44 mmol) in dimethylformamide (20 ml) at room temperature was treated with 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.131 g, 11.12 mmol). The mixture was stirred overnight and poured into a gently stirred round-bottom flask containing water (100 ml) and ethyl acetate (30 ml). The resulting bilayer suspension was stirred for several minutes, filtered and washed with water then minimal ethyl acetate to give the title compound after drying.

reactant | 5-bromothiophene-2-carboxylic acid | 6.18 mmol, 1.279 g | BrC1=CC=C(S1)C(=O)O | C5H3BrO2S
reactant | imidazo[1,2-a]pyridin-7-ylmethanamine | 6.79 mmol, 1 g | N=1C=CN2C1C=C(C=C2)CN | C8H9N3
reactant | 1-hydroxybenzotriazole hydrate | 6.79 mmol, 1.041 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 15.44 mmol, 1.698 ml | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 11.12 mmol, 2.131 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | 5-bromo-N-(imidazo[1,2-a]pyridin-7-ylmethyl)thiophene-2-carboxamide | BrC1=CC=C(S1)C(=O)NCC1=CC=2N(C=C1)C=CN2 | C13H10BrN3OS
